US05859009
5-Chloro-4-(2-ethoxymethyl-1,4-dioxaspiro[4.5]dec-8-ylamino)-6-ethylpyrimidine
3.0 g (10 mmol) of 4-(5-chloro-6-ethylpyrimidin-4-ylamino)-cyclohexanone ethylene ketal and 10 ml of 3-ethoxypropane-1,2-diol together with 100 mg of p-toluenesulfonic acid hydrate were refluxed for 8 hours in 10 ml of toluene. The reaction mixture was extracted by stirring with dilute sodium hydroxide solution and water, the organic phase was dried, and the solvent was stripped off in vacuo. The crude product was purified by silica gel chromatography (eluent petroleum ether/ethyl acetate 3:2). This gave 2.0 g (56.3% of theory) of a colorless oil (diastereomer mixture).

reactant | 4-(5-chloro-6-ethylpyrimidin-4-ylamino)-cyclohexanone ethylene ketal | 10 mmol, 3.0 g | C1COC2(CCC(CC2)NC2=NC=NC(=C2Cl)CC)O1 | C14H20ClN3O2
reactant | 3-ethoxypropane-1,2-diol | 10 ml | C(C)OCC(CO)O | C5H12O3
reactant | p-toluenesulfonic acid hydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-4-(2-ethoxymethyl-1,4-dioxaspiro[4.5]dec-8-ylamino)-6-ethylpyrimidine | ClC=1C(=NC=NC1CC)NC1CCC2(OCC(O2)COCC)CC1 | C17H26ClN3O3
